US07279200B2
A.8: Preparation of 1-allyloxymethyl-2-(2-oxo-2-phenylacetoxy)ethyl Oxophenylacetate
The compound of Example A.8 is prepared by the method described in Example A.7 using 2.2 mole equivalents of benzoylformic acid (glyoxalic acid) and 1 mole equivalent of 3-allyloxy-1,2-propanediol.

reactant | benzoylformic acid | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | 3-allyloxy-1,2-propanediol | C(C=C)OCC(CO)O | C6H12O3
product | 1-allyloxymethyl-2-(2-oxo-2-phenylacetoxy)ethyl Oxophenylacetate | O=C(C(=O)OC(COC(C(C1=CC=CC=C1)=O)=O)COCC=C)C1=CC=CC=C1 | C22H20O7
